US05332831
2-(Cyclopropylmethyl)-1H-imidazole-5-methanol
Dihydroxyacetone dimer (28.9 g), followed by ethyl 2-(cyclopropyl)ethanimidate hydrochloride (30 g) were cautiously added portionwise to freshly condensed liquid ammonia (200 ml) at -78° under nitrogen. The resulting stirred slurry was poured into a cold dry ice autoclave (600 ml) and the mixture stirred and heated at 90° (600 psi) for 16 h. The cooled (dry ice) mixture was poured into cold methanol (500 ml) and the mixture concentrated in vacuo to give a brown oil. The crude material was purified by flash column chromatography eluting with System C (100:8:1) to give the title compound as a colourless solid (14.71 g).

reactant | Dihydroxyacetone dimer | 28.9 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | ethyl 2-(cyclopropyl)ethanimidate hydrochloride | 30 g | Cl.C1(CC1)CC(OCC)=N
reactant | ammonia | 200 ml | N | H3N
reactant | dry ice | C(=O)=O | CO2
solvent | methanol | 500 ml | CO | CH4O
product | 2-(Cyclopropylmethyl)-1H-imidazole-5-methanol | 14.71 g | C1(CC1)CC=1NC(=CN1)CO | C8H12N2O
